US06713474B2
A mixture of cis-5-[4-(aminomethyl)phenyl]-7-[4-(4-methylpiperazino)cyclohexyl]-7H-pyrrolo[2,3-d]pyrimidin-4-amine (100 mg, 0.238 mmol), benzaldehyde (28 mg, 0.262 mmol) and acetic acid (43 mg, 0.714 mmol) in 1,2 dichloroethane (4 mL) was stirred at ambient temperature for 1 hour. Sodium triacetoxyborohydride (100 mg, 2.6 mmol) was added and the mixture was stirring continued for 2 hours. Sodium borohydride (100 mg, 2.60 mmol) was added and stirring was continued for an additional 30 minutes, the solvents were removed under reduced pressure and the residue purified by preparative reverse phase chromatography to yield cis-5-{4-[(benzylamino)methyl]phenyl}-7-[4-(4-methylpiperazino)cyclohexyl]-7H-pyrrolo[2,3-d]pyrimidin-4-amine: 1H NMR (DMSO-d6, 400 MHz) δ 8.13(s, 1H), 7.2-7.50(m, 1OH), 6.03(bs, 2H), 4.67 (m, 1H), 3.71(d, 2H), 1.52-2.50(m, 20H); R-P-HPLC (Hypersil HS C18, 5 μm, 100 A, 250×4.6 mm; 5%-50% acetonitrile over 25 min, 1 mL/min) tr 14.42 min.; MS:MH+ 510.3.

reactant | cis-5-[4-(aminomethyl)phenyl]-7-[4-(4-methylpiperazino)cyclohexyl]-7H-pyrrolo[2,3-d]pyrimidin-4-amine | 0.238 mmol, 100 mg | NCC1=CC=C(C=C1)C1=CN(C=2N=CN=C(C21)N)[C@@H]2CC[C@@H](CC2)N2CCN(CC2)C | C24H33N7
reactant | benzaldehyde | 0.262 mmol, 28 mg | C(C1=CC=CC=C1)=O | C7H6O
reactant | acetic acid | 0.714 mmol, 43 mg | C(C)(=O)O | C2H4O2
reactant | Sodium triacetoxyborohydride | 2.6 mmol, 100 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | Sodium borohydride | 2.60 mmol, 100 mg | [BH4-].[Na+]
solvent | 1,2 dichloroethane | 4 mL | ClCCCl | C2H4Cl2
product | cis-5-{4-[(benzylamino)methyl]phenyl}-7-[4-(4-methylpiperazino)cyclohexyl]-7H-pyrrolo[2,3-d]pyrimidin-4-amine | C(C1=CC=CC=C1)NCC1=CC=C(C=C1)C1=CN(C=2N=CN=C(C21)N)[C@@H]2CC[C@@H](CC2)N2CCN(CC2)C | C31H39N7
